### PR TITLE
Add Properties of List actions on Bools

### PR DESCRIPTION
**Pull request by Taneb**
I'm not sure of the name for `and-locate` and `or-locate`, but they're the whole reason I ended up making this PR...

### CODE REVIEW

**Comment by jamesmckinna** [comment]
It looks as though I added a note to `Data.Bool.ListAction` suggesting it be refactored to make use of https://github.com/agda/agda-stdlib/blob/master/src/Data/List/Effectful/Foldable.agda but I no longer entirely remember what I had had in mind!

Would it be better to refactor this PR to make use of the properties defined there? And perhaps to do that prior refactoring?

**Comment by JacquesCarette** [comment]
I'm okay with `and-locate` and `or-locate`. But definitely most of these properties are true more generally (of [commutative] monoid folds), with the `locate` property being of monoids with a 'zero' element.

I would probably be fine with adding these as-is, and refactoring later when more general proofs exist.

**Comment by jamesmckinna** [comment]
> I'm okay with `and-locate` and `or-locate`. But definitely most of these properties are true more generally (of [commutative] monoid folds), with the `locate` property being of monoids with a 'zero' element.
> 
> I would probably be fine with adding these as-is, and refactoring later when more general proofs exist.

Fine by me.

FTR, I think that the converse directions to the `locate` lemmas follow from having a zero element, but these lemmas further require that the monoid operation be `Conical` wrt that zero?

**Comment by Taneb** [comment]
Yes, it requires there are no "zero divisors" in the monoid, which is _not_ the case in, for example, the monoid of integers modulo 6 under multiplication, where 2 * 3 = 0

**Comment by jamesmckinna** [comment]
Add a `CHANGELOG` and you'll be good to go.

**Comment by jamesmckinna** [comment]
OK, so I experimented with my proposed refactoring, and surprise surprise not all was plain sailing...
* `Data.Bool.Properties` doesn't export any (obvious!) definitions of `∧-monoid`, `∨-monoid`, so the `++-homo` theorem isn't directly applicable... (groan)
* there is some more plumbing to do to ensure that `foldr` and `foldMap id` are appropriately correctly identified, so that the theorem, even if applicable, actually returns the correct result definitionally... (sigh)
* I must at some point have run of steam refactoring `Permutation` with the result that the appeal to `foldr-commMonoid` itself requires so much extraneous additional plumbing to apply... (bewilderment)

So I'll write a cut-down review, and then let's merge this as-is, and figure out the mess afterwards!

File: src/Data/Bool/ListAction/Properties.agda [hunk 1]
```diff
@@ -0,0 +1,86 @@
...
+open import Relation.Binary.PropositionalEquality.Core
+open import Relation.Binary.PropositionalEquality.Properties
+  using (module ≡-Reasoning)
+
+------------------------------------------------------------------------
+-- Properties
+
+-- and
+
+and-++ : ∀ bs cs → and (bs ++ cs) ≡ and bs ∧ and cs
```
Comment (jamesmckinna) [inline src/Data/Bool/ListAction/Properties.agda:31]: This (morally) should have the proof `and-++ bs cs = ++-homo ∧-monoid id bs {cs}` but doesn't, for reasons given.

File: src/Data/Bool/ListAction/Properties.agda [hunk 2]
```diff
@@ -0,0 +1,86 @@
...
+  (b ∧ and bs) ∧ and cs ∎
+  where open ≡-Reasoning
+
+∨-distribˡ-and : ∀ b cs → b ∨ and cs ≡ all (b ∨_) cs
+∨-distribˡ-and b [] = ∨-zeroʳ b
+∨-distribˡ-and b (c ∷ cs) = trans (∨-distribˡ-∧ b c (and cs)) (cong ((b ∨ c) ∧_) (∨-distribˡ-and b cs))
+
+∨-distribʳ-and : ∀ b cs → and cs ∨ b ≡ all (_∨ b) cs
+∨-distribʳ-and b [] = ∨-zeroˡ b
+∨-distribʳ-and b (c ∷ cs) = trans (∨-distribʳ-∧ b c (and cs)) (cong ((c ∨ b) ∧_) (∨-distribʳ-and b cs))
```
Comment (jamesmckinna) [inline src/Data/Bool/ListAction/Properties.agda:45]: These two however, should be rewritten in terms of `Data.List.Properties.foldr-map`, given the definition of `all` as a `foldr` (`and`) followed by a `map`? Or is the ergonomics of doing such similarly too tortured to be worth the effort?

File: src/Data/Bool/ListAction/Properties.agda [hunk 3]
```diff
@@ -0,0 +1,86 @@
...
+and-↭ : and Preserves _↭_ ⟶ _≡_
+and-↭ p = foldr-commMonoid ≡-setoid ∧-isCommutativeMonoid (↭⇒↭ₛ p)
+
+and-locate : ∀ bs → and bs ≡ false → false ∈ bs
+and-locate (false ∷ bs) p = here refl
+and-locate (true ∷ bs) p = there (and-locate bs p)
+
+-- or
+
+or-++ : ∀ bs cs → or (bs ++ cs) ≡ or bs ∨ or cs
```
Comment (jamesmckinna) [inline src/Data/Bool/ListAction/Properties.agda:56]: Ditto. `or-++ bs cs = ++-homo ∨-monoid id bs {cs}`, or... should be, modulo blah blah blah.

File: src/Data/Bool/ListAction/Properties.agda [hunk 4]
```diff
@@ -0,0 +1,86 @@
...
+  (b ∨ or bs) ∨ or cs ∎
+  where open ≡-Reasoning
+
+∧-distribˡ-or : ∀ b cs → b ∧ or cs ≡ any (b ∧_) cs
+∧-distribˡ-or b [] = ∧-zeroʳ b
+∧-distribˡ-or b (c ∷ cs) = trans (∧-distribˡ-∨ b c (or cs)) (cong ((b ∧ c) ∨_) (∧-distribˡ-or b cs))
+
+∧-distribʳ-or : ∀ b cs → or cs ∧ b ≡ any (_∧ b) cs
+∧-distribʳ-or b [] = ∧-zeroˡ b
+∧-distribʳ-or b (c ∷ cs) = trans (∧-distribʳ-∨ b c (or cs)) (cong ((c ∧ b) ∨_) (∧-distribʳ-or b cs))
```
Comment (jamesmckinna) [inline src/Data/Bool/ListAction/Properties.agda:70]: Ditto. `foldr-map` instances?

File: src/Data/Bool/ListAction/Properties.agda [hunk 5]
```diff
@@ -0,0 +1,86 @@
...
+∨-distribˡ-and : ∀ b cs → b ∨ and cs ≡ all (b ∨_) cs
+∨-distribˡ-and b [] = ∨-zeroʳ b
+∨-distribˡ-and b (c ∷ cs) = trans (∨-distribˡ-∧ b c (and cs)) (cong ((b ∨ c) ∧_) (∨-distribˡ-and b cs))
+
+∨-distribʳ-and : ∀ b cs → and cs ∨ b ≡ all (_∨ b) cs
+∨-distribʳ-and b [] = ∨-zeroˡ b
+∨-distribʳ-and b (c ∷ cs) = trans (∨-distribʳ-∧ b c (and cs)) (cong ((c ∨ b) ∧_) (∨-distribʳ-and b cs))
+
+and-↭ : and Preserves _↭_ ⟶ _≡_
+and-↭ p = foldr-commMonoid ≡-setoid ∧-isCommutativeMonoid (↭⇒↭ₛ p)
```
Comment (jamesmckinna) [inline src/Data/Bool/ListAction/Properties.agda:48]: Kill me now. `Data.List.Relation.Binary.Permutation.Propositional.Properties` imports `Data.List.Relation.Binary.Permutation.Setoid.Properties` qualified, but then *never* uses that import to re-export any modes of use such as this.

File: src/Data/Bool/ListAction/Properties.agda [hunk 6]
```diff
@@ -0,0 +1,86 @@
...
+∧-distribˡ-or : ∀ b cs → b ∧ or cs ≡ any (b ∧_) cs
+∧-distribˡ-or b [] = ∧-zeroʳ b
+∧-distribˡ-or b (c ∷ cs) = trans (∧-distribˡ-∨ b c (or cs)) (cong ((b ∧ c) ∨_) (∧-distribˡ-or b cs))
+
+∧-distribʳ-or : ∀ b cs → or cs ∧ b ≡ any (_∧ b) cs
+∧-distribʳ-or b [] = ∧-zeroˡ b
+∧-distribʳ-or b (c ∷ cs) = trans (∧-distribʳ-∨ b c (or cs)) (cong ((c ∧ b) ∨_) (∧-distribʳ-or b cs))
+
+or-↭ : or Preserves _↭_ ⟶ _≡_
+or-↭ p = foldr-commMonoid ≡-setoid ∨-isCommutativeMonoid (↭⇒↭ₛ p)
```
Comment (jamesmckinna) [inline src/Data/Bool/ListAction/Properties.agda:73]: Ditto.

File: src/Data/Bool/ListAction/Properties.agda [hunk 7]
```diff
@@ -0,0 +1,86 @@
...
+
+or-locate : ∀ bs → or bs ≡ true → true ∈ bs
+or-locate (false ∷ bs) p = there (or-locate bs p)
+or-locate (true ∷ bs) p = here p
+
+-- all
+
+all-↭ : ∀ {a} {A : Set a} (p : A → Bool) → all p Preserves _↭_ ⟶ _≡_
+all-↭ p xs↭ys = and-↭ (↭.map⁺ p xs↭ys)
```
Comment (jamesmckinna) [inline src/Data/Bool/ListAction/Properties.agda]: Eta-contract using function composition?

File: src/Data/Bool/ListAction/Properties.agda [hunk 8]
```diff
@@ -0,0 +1,86 @@
...
+
+-- any
+
+any-↭ : ∀ {a} {A : Set a} (p : A → Bool) → any p Preserves _↭_ ⟶ _≡_
+any-↭ p xs↭ys = or-↭ (↭.map⁺ p xs↭ys)
```
Comment (jamesmckinna) [inline src/Data/Bool/ListAction/Properties.agda]: Ditto.

File: CHANGELOG.md [hunk 9]
```diff
@@ -89,6 +89,9 @@ New modules
 * `Codata.Guarded.Stream.Relation.Unary.Linked` for a proof that each pair
   of consecutive elements of a stream are related.
 
+* `Data.Bool.ListAction.Properties` for properties of conjunction and
+  disjuntion of lists.
```
Comment (jamesmckinna) [inline CHANGELOG.md]:
```suggestion
* `Data.Bool.ListAction.Properties` for properties of conjunction and
  disjunction of lists.
```

**Review by jamesmckinna — DISMISSED** [review]
All but the `CHANGELOG` typo are optional.

But my general meta-comment for the library going forward ought perhaps to be that we try to 'take the high road', ie. reuse all the abstraction machinery we have developed, rather than taking the 'low' road of proving things directly by pattern-matching, which otherwise is too 'easy'/'tempting' in cases like these?

**Comment by Taneb** [comment]
> Data.Bool.Properties doesn't export any (obvious!) definitions of ∧-monoid, ∨-monoid, so the ++-homo theorem isn't directly applicable... (groan)

That's a serious omission that should definitely be fixed!

File: src/Data/Bool/ListAction/Properties.agda (hunk 2 above)
Comment (Taneb) [reply src/Data/Bool/ListAction/Properties.agda:45]: This was my best effort:

```agda
∨-distribˡ-and : ∀ b cs → b ∨ and cs ≡ all (b ∨_) cs
∨-distribˡ-and b cs = begin
  b ∨ foldr _∧_ true cs                ≡⟨ foldr-fusion (b ∨_) true (∨-distribˡ-∧ b) cs ⟩
  foldr (b ∨_ -⟨ _∧_ ∣) (b ∨ true) cs  ≡⟨ foldr-map _∧_ (b ∨_) (b ∨ true) cs ⟨
  foldr _∧_ (b ∨ true) (map (b ∨_) cs) ≡⟨ cong (λ e → foldr _∧_ e (map (b ∨_) cs)) (∨-zeroʳ b) ⟩
  foldr _∧_ true (map (b ∨_) cs)       ∎
  where open ≡-Reasoning
```

I personally don't think it's worth it, but maybe I'm missing a trick

Comment (jamesmckinna) [reply src/Data/Bool/ListAction/Properties.agda:45]: Maybe you're right... I managed
```agda
∨-distribˡ-and b cs = begin
  b ∨ and cs            ≡⟨ foldr-fusion (b ∨_) true (∨-distribˡ-∧ b) cs ⟩
  foldr g (b ∨ true) cs ≡⟨ foldr-cong (λ _ _ → refl) (∨-zeroʳ b) cs ⟩
  foldr g true cs       ≡⟨ foldr-map _∧_  (b ∨_) true cs ⟨
  all (b ∨_) cs         ∎
  where
  open ≡-Reasoning
  g : Bool → Bool → Bool
  g z = (b ∨ z) ∧_
```
which isn't much better, but is more 'abstract'?

I won't fight you for this though!

**Review by jamesmckinna — APPROVED** [review]
All fine by me now, and I think the one approval should suffice!

**Comment by jamesmckinna** [comment]
A last thought here, but one which should perhaps be revisited: we define `all` resp. `any` in terms of `and` resp. `or`, but what if we did it the other way round?

File: src/Data/Bool/ListAction/Properties.agda (hunk 5 above)
Comment (jamesmckinna) [reply src/Data/Bool/ListAction/Properties.agda:48]: Aiming to fix this now in #3026 via appropriate code motion to uncouple from `Permutation.*.Properties`
